US07304081B2
Step 1. tert-butyl 3-hydroxy-3-pyridin-4-ylpyrrolidine-1-carboxylate
1.600 M of n-Butyllithium in hexane (0.810 mL) was added to a solution of 4-bromopyridine hydrochloride (210 mg, 1.1 mmol) in ether (5 mL, 0.05 mol) at −78° C. The solution was stirred at −78° C. for 30 min. and then tert-butyl 3-oxopyrrolidine-1-carboxylate (200 mg, 0.001 mol) was added and the temperature was maintained at −78° C. for 3 hours. The reaction mixture was quenched with water, extracted with AcOEt. The organic layer was dryed with MgSO4, and concentrated to afford the desired product.

reactant | n-Butyllithium | 1.600 M | C(CCC)[Li]
reactant | 4-bromopyridine hydrochloride | 1.1 mmol, 210 mg | Cl.BrC1=CC=NC=C1
reactant | ether | 0.05 mol, 5 mL | CCOCC | C4H10O
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 0.001 mol, 200 mg | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | hexane | 0.810 mL | CCCCCC | C6H14
product | tert-butyl 3-hydroxy-3-pyridin-4-ylpyrrolidine-1-carboxylate | OC1(CN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C14H20N2O3
